US06846832B2
b) 2-Fluoro-5-methoxy-benzoyl Chloride
A mixture of 2-fluoro-5-methoxy-benzoic acid (4.3 g, 25 mmol) and thionyl chloride (68 mL, 937 mmol) and DMF (1 drop) was stirred at RT for 14 hours. The mixture was then evaporated to afford the title compound (4.77 g, 100%) after repeated azeotroping with toluene.

reactant | 2-fluoro-5-methoxy-benzoic acid | 25 mmol, 4.3 g | FC1=C(C(=O)O)C=C(C=C1)OC | C8H7FO3
reactant | thionyl chloride | 937 mmol, 68 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-Fluoro-5-methoxy-benzoyl Chloride | 4.77 g, 100% | FC1=C(C(=O)Cl)C=C(C=C1)OC | C8H6ClFO2
